US04035346
Tri-n-octyl-n-butylphosphonium bromide is prepared by slowing dripping tri-(n-octyl)phosphine (740 grams) into refluxing 1-bromobutane (500 grams) in a nitrogen atmosphere. Reflux is continued one hour after final addition then the solution is cooled with stirring for about 18 hours, followed by vacuum removal of excess 1-bromobutane at 60° C. This product, 1210 grams from two successive preparations, is added to 880 grams of sodium 3,5-dicarbomethoxybenzenesulfonate in 2500 ml. of water and stirred for at least one hour at 85° C. then the heat is removed and the oil-in-water mixture is stirred for about 18 hours. The oil layer is separated from the water, rinsed with 1000 ml. of water and dried at about 80° C. at a pressure less than 2 torr for 18 hours. This product, an oil, is tri-n-octyl-n-butylphosphonium 3,5-dicarbomethoxybenzenesulfonate with 4.2% phosphorus and 4.7% sulfur by analysis.

reactant | tri-(n-octyl)phosphine | 740 grams | C(CCCCCCC)P(CCCCCCCC)CCCCCCCC | C24H51P
reactant | 1-bromobutane | 500 grams | BrCCCC | C4H9Br
product | Tri-n-octyl-n-butylphosphonium bromide | [Br-].C(CCCCCCC)[P+](CCCC)(CCCCCCCC)CCCCCCCC | InChI=1S/C28H60P.BrH/c1-5-9-13-16-19-22-26-29(25-12-8-4,27-23-20-17-14-10-6-2)28-24-21-18-15-11-7-3;/h5-28H2,1-4H3;1H/q+1;/p-1
